US06680317B2
e) Preparation of N-[4-Chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-trifluoromethylphenyl)cyanoguanidine
Following the general procedure for cyanoguanidine formation outlined in example 12, N-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-trifluoromethylphenyl)carbodiimide (250 mg, 0.47 mmol), cyanamide (79 mg, 1.88 mmol) and N,N-diisopropylethylamine (73 mg, 0.56 mmol) were reacted, followed by desilylation with Cesium fluoride (86 mg, 0.56 mmol) to form the desired product (80 mg, 37%). EI-MS m/z 462.0 (M+). 1H NMR (DMSO-d6) δ 2.86 (s, 6H), 7.14 (d, 1H), 7.53 (m, 2H), 7.59 (d, 1H), 7.75 (t, 1H), 7.77 (d, 1H), 8.91 (s, 1H), 9.28 (s, 1H), 10.53 (s, 1H).

reactant | cyanoguanidine | C(#N)NC(=N)N | C2H4N4
reactant | N-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-trifluoromethylphenyl)carbodiimide | 0.47 mmol, 250 mg | ClC1=C(C(=C(C=C1)N=C=NC1=C(C=CC=C1)C(F)(F)F)O[Si](C)(C)C(C)(C)C)S(=O)(=O)N(C)C | C22H27ClF3N3O3SSi
reactant | cyanamide | 1.88 mmol, 79 mg | N#CN | CH2N2
reactant | N,N-diisopropylethylamine | 0.56 mmol, 73 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Cesium fluoride | 0.56 mmol, 86 mg | [F-].[Cs+]
product | N-[4-Chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-trifluoromethylphenyl)cyanoguanidine | 80 mg, 37% | ClC1=C(C(=C(C=C1)N(C(=N)NC1=C(C=CC=C1)C(F)(F)F)C#N)O)S(=O)(=O)N(C)C | C17H15ClF3N5O3S
